US07935722B2
N-[9-(3-Fluoro-benzyl)-6-(6-methyl-pyridazin-3-yl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Dissolve N-[9-(3-flourobenzyl)-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]isobutyramide (Preparation 23) (150 mg, 0.31 mmol) and 3-chloro-6-methylpyridazine (39 mg, 0.31 mmol) in dioxane (2.5 mL) and 2M Na2CO3 (388 μL). Sparge the solution with nitrogen for 5 min, add dichlorobis(triphenylphosphine)palladium (II) (11 mg, 0.016 mmol) and seal the reaction vessel. Heat to 140° C. in a microwave reactor for 30 min, then dilute with water (20 mL). Extract into EtOAc (3×25 mL), dry organics (MgSO4), filter, and concentrate in-vacuo to give the crude product (179 mg) as a brown solid. Purify the crude product on silica gel (12 g), eluting with 25-70% (4% (2M NH3/MeOH)/CH2Cl2)/hexanes to afford 35 mg (25%) of the title compound as a white solid. MS (ES): m/z 457 (M+1), 455 (M−1); HPLC (Method B) Rt=3.37 min (100%).

reactant | N-[9-(3-flourobenzyl)-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]isobutyramide | 0.31 mmol, 150 mg | FC=1C=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(C(C)C)=O)B2OC(C(O2)(C)C)(C)C)C=CC1 | C29H36BFN2O3
reactant | 3-chloro-6-methylpyridazine | 0.31 mmol, 39 mg | ClC=1N=NC(=CC1)C | C5H5ClN2
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2M, 388 μL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 20 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.016 mmol, 11 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[9-(3-Fluoro-benzyl)-6-(6-methyl-pyridazin-3-yl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 35 mg, 25% | FC=1C=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(C(C)C)=O)C=2N=NC(=CC2)C)C=CC1 | C28H29FN4O
